US07265104B2
Following the procedure described for Example 1 (A), Step A, N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide (Preparation 9) (50 mg, 0.099 mmol) was condensed with 6-fluoroindole-3-carboxaldehyde (19.4 mg, 0.119 mmol). Purification by medium pressure chromatography eluting with 50% EtOAc in CH2Cl2 yielded 23.5 mg of N-benzyl-2-[8,9-difluoro-4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide. 1H NMR (CDCl3) δ 7.94 (d, 1H), 7.61 (m, 3H), 7.27-7.49 (m, 9H), 6.95 (m, 1H), 6.86 (m, 1H), 6.63 (m, 1H), 4.35-5.0 (m, 5H), 4.20 (m, 1H), 1.23 (m, 6H); MS 647.3 (M+1), 645.3 (M−1).

reactant | N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide | 0.099 mmol, 50 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3CC1=O)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C28H25F2N5O2
reactant | 6-fluoroindole-3-carboxaldehyde | 0.119 mmol, 19.4 mg | FC1=CC=C2C(=CNC2=C1)C=O | C9H6FNO
product | N-benzyl-2-[8,9-difluoro-4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide | 23.5 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3C(C1=O)=CC1=CNC3=CC(=CC=C13)F)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C37H29F3N6O2
